US08222266B2
5-methyl-4-(3-pyridinyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2(1H)-pyrimidinone hydrochloride (E3)
A solution of 1-(4-chloro-butyl)-5-methyl-4-pyridin-3-yl-1H-pyrimidin-2-one (Prep12, 86 mg, 0.31 mmol), (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane (Prep4, 63 mg, 0.28 mmol), KI (2 mg) and K2CO3 (43 mg, 0.31 mmol) in DMF (2 ml) was placed in a microwave oven and irradiated at 115° C. for 1 hour. After cooling, the solution was diluted with water and extracted with ethyl acetate. The organic layer was washed with brine, dried (Na2SO4) and evaporated The solvent was removed under vacuum and the residue was redissolved in DCM and filtered, the filtrate was stirred in the presence of PS-isocyanate (350 mg) for 3 hours. The mixture was filtered and the solvent removed under vacuum. The crude was purified by flash chromatography with DCM-MeOH—NH4OH (99-1-0.1) to give the title compound (17 mg, 4% yield) as a free base.

reactant | 1-(4-chloro-butyl)-5-methyl-4-pyridin-3-yl-1H-pyrimidin-2-one | 0.31 mmol, 86 mg | ClCCCCN1C(N=C(C(=C1)C)C=1C=NC=CC1)=O | C14H16ClN3O
reactant | (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane | 0.28 mmol, 63 mg | FC(C1=CC=C(C=C1)[C@]12CNC[C@@H]2C1)(F)F | C12H12F3N
reactant | K2CO3 | 0.31 mmol, 43 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-methyl-4-(3-pyridinyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2(1H)-pyrimidinone hydrochloride | 17 mg, 4% yield | Cl.CC=1C(=NC(N(C1)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)C=1C=NC=CC1 | InChI=1S/C26H27F3N4O.ClH/c1-18-15-33(24(34)31-23(18)19-5-4-10-30-14-19)12-3-2-11-32-16-22-13-25(22,17-32)20-6-8-21(9-7-20)26(27,28)29;/h4-10,14-15,22H,2-3,11-13,16-17H2,1H3;1H/t22-,25+;/m0./s1
